US07612210B2
A solution of (4S)-4-benzyl-3-[2-(4-methoxyphenyl)acetyl]-1,3-oxazolidin-2-one (2.5 g, 7.68 mmol) in dry methylene chloride (50 mL) was cooled to −78° C. and treated with diisopropylethylamine (1.09 g, 8.45 mmol) followed by titanium tetrachloride (0.88 mL, 8.06 mmol). The resulting reaction was warmed to 0° C. where it was stirred for 1 h, during which time the reaction turned dark purple. The reaction was then re-cooled to −78° C. and was treated with another portion of titanium tetrachloride (0.88 mL, 8.06 mmol) followed by a solution of cyclohexanone (0.91 mL, 8.83 mmol) in methylene chloride (10 mL). After addition, the reaction was warmed to 0° C. where it was stirred for 2 h, after which time the reaction was carefully quenched with the addition of a saturated aqueous solution of sodium bicarbonate and the mixture was stirred at 0° C. for 30 minutes. The reaction was filtered to remove the titanium salt that had precipitated, and the layers of the filtrate were then separated. The aqueous layer was washed with methylene chloride (3×30 mL). The solid precipitate was then collected and stirred vigorously in a 2N aqueous solution of hydrochloric acid (50 mL) for 20 minutes, after which time, the remaining product was extracted from the aqueous layer with methylene chloride (3×60 mL), and the combined organic extracts (from the filtrate and the liberated salt) were dried over magnesium sulfate and concentrated in vacuo. The product was purified via Biotage™ Horizon chromatography (FLASH 40 M, silica, gradient from 10% ethyl acetate/hexane to 45% ethyl acetate/hexane) to yield 2.67 g (82%) (4S)-4-benzyl-3-[(2R)-2-(1-hydroxycyclohexyl)-2-(4-methoxyphenyl)acetyl]-1,3-oxazolidin-2-one as a colorless foam. MS (ESI) m/z 406; [α]D25=+109° (c=0.010 g/mL, EtOH).

reactant | (4S)-4-benzyl-3-[2-(4-methoxyphenyl)acetyl]-1,3-oxazolidin-2-one | 7.68 mmol, 2.5 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC1=CC=C(C=C1)OC)=O | C19H19NO4
reactant | diisopropylethylamine | 8.45 mmol, 1.09 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclohexanone | 8.83 mmol, 0.91 mL | C1(CCCCC1)=O | C6H10O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 8.06 mmol, 0.88 mL | [Ti](Cl)(Cl)(Cl)Cl
catalyst | titanium tetrachloride | 8.06 mmol, 0.88 mL | [Ti](Cl)(Cl)(Cl)Cl
product | (4S)-4-benzyl-3-[(2R)-2-(1-hydroxycyclohexyl)-2-(4-methoxyphenyl)acetyl]-1,3-oxazolidin-2-one | 2.67 g, 82% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H](C1=CC=C(C=C1)OC)C1(CCCCC1)O)=O | C25H29NO5
